US05602145
c) 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one
To a cold solution consisting of potassium nitrate (8.2 g, 81.6 mmol) in sulfuric acid (40 mL) was added 1,2,3,4-tetrahydroisoquinolin-1-one (10 g, 68mmol) dropwise over a period of five minutes. The reaction mixture was stirred overnight at room temperature and then poured into ice. The solution was filtered. After washing with water several times, the solid was dried to yield the title compound (9.85 g, 76%).

reactant | potassium nitrate | 81.6 mmol, 8.2 g | [N+](=O)([O-])[O-].[K+]
reactant | 1,2,3,4-tetrahydroisoquinolin-1-one | 68mmol, 10 g | C1(NCCC2=CC=CC=C12)=O | C9H9NO
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 9.85 g, 76% | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)=O | C9H8N2O3
